US07074819B2
To a solution of (3RS,4RS)-4-[4-(t-butyldimethylsilyloxy)phenyl]-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman (1.1 g, 1.99 mmol) in tetrabydrofuran (10 ml) was added 1N-tetrabutylainmoniumfluoride (3.99 ml, 3.99 mmol) in tetrahydrofuran and stirred at room temperature for 1 hour. After the reaction was completed, the reaction mixture was treated with water and extracted with ethyl acetate. The extract was dried over, anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to chromatography on silica gel (n-hexane:ethyl acetate=2:1) to give (3RS,4RS)-4-(4-hydroxyphenyl)-7-(methoxymethoxy)-3-[4-(methoxymethoxy)pheny]-3-methylchroman (0.84 g, 96.4%) as a foamy oil. To a solution of (3RS,4RS)-4-(4-hydroxyphenyl)-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl-]-3-methylchroman (0.31 g, 0.71 mmol) in dimethylformamide (6 ml) was added potassium carbonate (0.39 g, 2.84 mmol) and 5,5-di-(ethoxycarbonyl)-1-iodo-5(4,4,5,5,5-pentafluoropentyl)butane (0.54 g, 1.07 mmol) and stirred at 80° C. for 3 hours. After the reaction was completed, the reaction mixture was treated with water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (0.552 g, 96%) as a foamy oil.

reactant | (3RS,4RS)-4-[4-(t-butyldimethylsilyloxy)phenyl]-7-(methoxymethoxy)-3-[4-(methoxymethoxy)phenyl]-3-methylchroman | 1.99 mmol, 1.1 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C32H42O6Si
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-(4-hydroxyphenyl)-7-(methoxymethoxy)-3-[4-(methoxymethoxy)pheny]-3-methylchroman | 0.84 g, 96.4% | OC1=CC=C(C=C1)C1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C26H28O6
